US05599770
Synthesis of 6-chloro-2-phenylmethoxy-4-(2-propenyloxy)pyrimidine (compound I-343)
4,6-Dichloro-2-(phenylmethoxy)pyrimidine (Compound I-173) (1.5 g, 5.9 mmol) and allyl alcohol (0.342 g, 5.9×1.0 mmol) were introduced into a 50 ml eggplant type flask, to which dimethylformamide (20 ml) was added to form a solution. While cooling with ice, 60% sodium hydride (0.247 g, 5.9×1.05 mmol) which had been washed with hexane was added. After stirred for one night at room temperature, the reaction solution was poured into iced water and extracted with toluene (40 ml). The organic phase was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and thereafter, the solvent was distilled off to afford an oily product, which was then purified on silica gel column chromatography (Wakogel C300, 300 ml, hexane/ethyl acetate=25/1000(v/v)) to obtain the compound (I-343).

reactant | 4,6-Dichloro-2-(phenylmethoxy)pyrimidine | 5.9 mmol, 1.5 g | ClC1=NC(=NC(=C1)Cl)OCC1=CC=CC=C1 | C11H8Cl2N2O
reactant | allyl alcohol | 1.0 mmol, 0.342 g | C(C=C)O | C3H6O
reactant | sodium hydride | 1.05 mmol, 0.247 g | [H-].[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 6-chloro-2-phenylmethoxy-4-(2-propenyloxy)pyrimidine | ClC1=CC(=NC(=N1)OCC1=CC=CC=C1)OCC=C | C14H13ClN2O2
